US04533665
A mixture of 3.8 parts of 6-(2-chloroethyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one, 3.5 parts of 4-[bis(4-fluorophenyl)methylene]piperidine, 10 parts of sodium carbonate, 0.1 parts of potassium iodide and 240 parts of 4-methyl-2-pentanone was stirred and refluxed for 20 hours using a water-separator. The reaction mixture was filtered hot and the filtrate was evaporaed. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 2.8 parts of 6-[2-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]ethyl]-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one; mp. 145.5° C. (compound 1).

reactant | 6-(2-chloroethyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | ClCCC1=C(N=C2N(C1=O)C=CS2)C | C9H9ClN2OS
reactant | 4-[bis(4-fluorophenyl)methylene]piperidine | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-[2-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]ethyl]-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CS2)C)C2=CC=C(C=C2)F | C27H25F2N3OS
